US07098247B2
In a flask, 2920 mg (8.72 mmol) {2-[(6-Cyano-pyridine-3-carbonyl)-amino]-phenyl}-carbamic acid t-butyl ester and 1000 mg Pd (10% on carbon) were placed under nitrogen and 10 ml THF and 120 ml methanol were added. The starting material was hydrogenated under atmospheric pressure and at rt for 3.5 h. The catalyst was filtered off. The solvent was evaporated and the residue was subjected to silica gel chromatography (toluene/isopropanol/NH3 (conc.) 16:20:1) to yield 2600 mg (7.6 mmol) {2-[(6-Aminomethyl-pyridine-3-carbonyl)-amino]-phenyl}-carbamic acid t-butyl ester; exact MW [M+H] calc'd: 343.18; MW found [M+H]: 343.2.

reactant | {2-[(6-Cyano-pyridine-3-carbonyl)-amino]-phenyl}-carbamic acid t-butyl ester | 8.72 mmol, 2920 mg | C(C)(C)(C)OC(NC1=C(C=CC=C1)NC(=O)C=1C=NC(=CC1)C#N)=O | C18H18N4O3
reactant | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | Pd | 1000 mg | [Pd] | Pd
solvent | methanol | 120 ml | CO | CH4O
product | {2-[(6-Aminomethyl-pyridine-3-carbonyl)-amino]-phenyl}-carbamic acid t-butyl ester | 7.6 mmol, 2600 mg | C(C)(C)(C)OC(NC1=C(C=CC=C1)NC(=O)C=1C=NC(=CC1)CN)=O | C18H22N4O3
